US04267326
In 70 ml of dimethylacetamide was dissolved 2.60 g (0.02 mol) of 5-fluorouracil. To this solution were added 0.96 g (0.02 mol) of 50% sodium hydride and then a solution of 2.16 g (0.02 mol) of chloromethyl acetate in 10 ml of dimethylacetamide. The mixture was reacted together at room temperature for 5.5 hours. After completion of the reaction, the reaction liquid was filtered to remove a precipitate and then the dimethylacetamide used as solvent was removed from the filtrate by distillation. The residue was taken up in 100 ml of ether and the ethereal solution was filtered to remove insoluble matters. The ether was removed by distillation and the residue was subjected to an adsorption treatment using a column packed with silica gel. The adsorbed substance was elutriated with a mixture (1:1 in mixing ratio) of benzene and ethyl acetate to isolate at first 180 mg of 1,3-bis(acetoxymethyl)-5-fluorouracil in a yield of 3.2%. This product was a viscous liquid and exhibited in IR-absorption spectral analysis characteristic absorption bands at 3120, 2970, 1755(s), 1704(s), 1690(s), 1478, 1375, 1285, 1230(s), 1170, 1087, 1035(s), 980, 842, 790 and 772 cm-1.

reactant | 5-fluorouracil | 0.02 mol, 2.60 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | sodium hydride | 0.02 mol, 0.96 g | [H-].[Na+]
reactant | chloromethyl acetate | 0.02 mol, 2.16 g | C(C)(=O)OCCl | C3H5ClO2
solvent | dimethylacetamide | 70 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 1,3-bis(acetoxymethyl)-5-fluorouracil | 180 mg, yield of 3.2% | C(C)(=O)OCN1C(=O)N(C(=O)C(=C1)F)COC(C)=O | C10H11FN2O6
